US03975531
7-Benzoyl-3-methyl-3-methylthioindolin-2-one.
A stirred solution of 3.94 g. (0.02 mole) of 2-aminobenzophenone in methylene chloride at -65°C. was treated with 2.16 g. (0.02 mole) of t-butylhypochlorite. After 15 min. 2.96 g. ethyl α-(methylthio)propionate was added dropwise and stirring continued for 1 hr. At the end of this time 2.02 g. of triethylamine (0.02 mole) was added dropwise and the reaction solution was allowed to warm to room temperature. This was followed by treatment with lN hydrochloric acid and stirred for 15 min. The methylene chloride solution was then separated and stripped under vacuum. The yellow oil residue was triturated with isopropyl ether and 3 g. of a yellow solid was filtered off (51%). Recrystallization from absolute ethanol gave a cream color solid, m.p. 135°-137°C.

reactant | 2-aminobenzophenone | 0.02 mole | NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H11NO
reactant | t-butylhypochlorite | 0.02 mole | C(C)(C)(C)OCl | C4H9ClO
reactant | ethyl α-(methylthio)propionate | CSC(C(=O)OCC)C | C6H12O2S
reactant | triethylamine | 0.02 mole | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7-Benzoyl-3-methyl-3-methylthioindolin-2-one | C(C1=CC=CC=C1)(=O)C=1C=CC=C2C(C(NC12)=O)(SC)C | C17H15NO2S
